US04521607
N-(1-Indanyl)glycine ethyl ester hydrochloride (9.0 g) is dissolved in 100 ml of 5N hydrochloric acid, and the mixture is refluxed for 4 hours. The reaction mixture is concentrated to dryness under reduced pressure, 10 ml of water is added to the residue, and the mixture is neutralized with aqueous ammonia. The resulting crystalline precipitates are collected by filtration, washed with water, and dried, to give 6.0 g N-(1-indanyl)glycine as colorless needles. Melting point: 184°-186° C.

reactant | N-(1-Indanyl)glycine ethyl ester hydrochloride | 9.0 g | Cl.C(C)OC(CNC1CCC2=CC=CC=C12)=O
solvent | hydrochloric acid | 5N, 100 ml | Cl | ClH
product | N-(1-indanyl)glycine | 6.0 g | C1(CCC2=CC=CC=C12)NCC(=O)O | C11H13NO2
